US09108957B2
To a suspension of 5-methyl-[1,4]oxazepane hydrochloride (0.08 g, 0.50 mmol) and 2-chloro-3-methyl-6-(pyrimidin-4-yl)-3H-pyrimidin-4-one (0.09 g, 0.40 mmol) in tetrahydrofuran (2 mL) in a sealed tube was added triethylamine (0.14 mL) at room temperature. The mixture was heated to 150° C. under microwave irradiation and stirred for 30 min. After cooling to room temperature, the reaction mixture was poured into water and extracted with chloroform. The extracts were dried over anhydrous sodium sulfate and concentrated. The residue was purified by flash column chromatography on silica gel (chloroform/methanol=10/1 as an eluant) to yield 2-(5-methyl-[1,4]oxazepane-4-yl)-3-methyl-6-pyrimidin-4-yl-3H-pyrimidin-4-one (0.03 g, 0.09 mmol, 22%) as a white solid.

reactant | 5-methyl-[1,4]oxazepane hydrochloride | 0.50 mmol, 0.08 g | Cl.CC1NCCOCC1
reactant | 2-chloro-3-methyl-6-(pyrimidin-4-yl)-3H-pyrimidin-4-one | 0.40 mmol, 0.09 g | ClC1=NC(=CC(N1C)=O)C1=NC=NC=C1 | C9H7ClN4O
reactant | triethylamine | 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2-(5-methyl-[1,4]oxazepane-4-yl)-3-methyl-6-pyrimidin-4-yl-3H-pyrimidin-4-one | 0.09 mmol, 0.03 g, 22% | CC1N(CCOCC1)C1=NC(=CC(N1C)=O)C1=NC=NC=C1 | C15H19N5O2
